US07115750B1
N-(8-Oxo-5,6,7,8-tetrahydro-3-quinolinyl)acetamide
Manganese dioxide (4.47 g, 51.4 mmol) was added to chloroform (26 ml) solution of N-(8-hydroxy-5,6,7,8-tetrahydro-3-quinolinyl)acetamide (1.06 g, 5.14 mmol) obtained in 2), which was stirred at room temperature for 1 day. After completion of the reaction, the insoluble matters were filtered off, and the filtrate was concentrated under reduced pressure. Diisopropyl ether and hexane were added to the resulting residue, to give the titled compound (858 mg) as a colorless powder.

reactant | N-(8-hydroxy-5,6,7,8-tetrahydro-3-quinolinyl)acetamide | 5.14 mmol, 1.06 g | OC1CCCC=2C=C(C=NC12)NC(C)=O | C11H14N2O2
catalyst | Manganese dioxide | 51.4 mmol, 4.47 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 26 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(8-Oxo-5,6,7,8-tetrahydro-3-quinolinyl)acetamide | 858 mg | O=C1CCCC=2C=C(C=NC12)NC(C)=O | C11H12N2O2
